US04666907
To a stirring suspension of 1.72 kg (16 mol) of p-benzoquinone in 13 liters MeOH at room temperature was added slowly a solution of 1.0 kg (8 mol) of 2-aminothiophenol in 600 ml MeOH over a period of 1 hour. The resulting red mixture was stirred at room temperature for another 2 hours and then the product 3H-phenothiazin-3-one was filtered off. This 3H-phenothiazin-3-one was washed thoroughly with methanol and dried to give 1.07 kg of 3H-phenothiazin-3-one (61.49% yield), m.p. 157°-159° C.

reactant | p-benzoquinone | 16 mol, 1.72 kg | C1(C=CC(C=C1)=O)=O | C6H4O2
reactant | 2-aminothiophenol | 8 mol, 1.0 kg | NC1=C(C=CC=C1)S | C6H7NS
solvent | MeOH | 13 liters | CO | CH4O
solvent | MeOH | 600 ml | CO | CH4O
product | 3H-phenothiazin-3-one | 1.07 kg, 61.49% yield | C1=CC(C=C2SC3=CC=CC=C3N=C12)=O | C12H7NOS
